US06844344B2
Preparation of (2S)-1-(2,3-Dihydro-4-benzo[b]furanoxy)-3-(4-(3-ethylbenzo[b]thiophen-2-yl)piperidin-1-yl)-2-propanol.
A solution 4-hydroxy-4-(3-ethylbenzo[b]thiophen-2-yl)piperidine (0.069 g, 0.281 mmol) and (S)-(+)-4-(oxiranylmethoxy)-2,3-dihydrobenzo[b]furan (0.054 g, 0.281 mmol) in methanol (3 mL) was heated at reflux for 18 hours, and then cooled and evaporated. The residue was purified using silica gel chromatography (dichloromethane/1% methanol in dichloromethane) to give the title compound as a clear colorless oil (0.043 g, 35%). FDMS m/e=438 (M++1). C26H31NO3S.

reactant | 4-hydroxy-4-(3-ethylbenzo[b]thiophen-2-yl)piperidine | 0.281 mmol, 0.069 g | OC1(CCNCC1)C1=C(C2=C(S1)C=CC=C2)CC | C15H19NOS
reactant | (S)-(+)-4-(oxiranylmethoxy)-2,3-dihydrobenzo[b]furan | 0.281 mmol, 0.054 g | O1[C@@H](C1)COC1=CC=CC=2OCCC21 | C11H12O3
solvent | methanol | 3 mL | CO | CH4O
product | (2S)-1-(2,3-Dihydro-4-benzo[b]furanoxy)-3-(4-(3-ethylbenzo[b]thiophen-2-yl)piperidin-1-yl)-2-propanol | 0.043 g, 35% | O1C2=C(CC1)C(=CC=C2)OC[C@H](CN2CCC(CC2)C2=C(C1=C(S2)C=CC=C1)CC)O | C26H31NO3S
